US05194430
Step a: β-Methyl-D-aspartate hydrochloride
Cool methanol (525 mL) to -20° C. and place under an atmosphere of nitrogen. Add, by dropwise addition, thionyl chloride (80 mL). Add D-aspartic acid (100 g, 0.75 mol) in one portion and allow the reaction to warm to room temperature over approximately 1 hour. Stir for 50 minutes at room temperature and pour into anhydrous ethyl ether (1.5 L). Filter the resulting solid, dissolve partly in warm ethanol (500 mL) and filter again. Add the filtrated to ethyl ether (1.5 L) and filter the resulting solid. Dry to give the title compound (85.3 g, 62%).

reactant | methanol | 525 mL | CO | CH4O
reactant | thionyl chloride | 80 mL | S(=O)(Cl)Cl | Cl2OS
reactant | D-aspartic acid | 0.75 mol, 100 g | N[C@H](CC(=O)O)C(=O)O | C4H7NO4
solvent | ethyl ether | 1.5 L | C(C)OCC | C4H10O
product | β-Methyl-D-aspartate hydrochloride | 85.3 g, 62% | Cl.CC([C@@H](N)C(=O)O)C(=O)O | InChI=1S/C5H9NO4.ClH/c1-2(4(7)8)3(6)5(9)10;/h2-3H,6H2,1H3,(H,7,8)(H,9,10);1H/t2?,3-;/m1./s1
